US07153878B2
To a solution of 2-(4-Trifluoromethyl-benzoylamino)-propionic acid (33.4 g, 128 mmol) is added oxalyl chloride (111 mL, 1.27 Mol) and 1 drop of DMF and the solution stirred overnight. The volatiles are removed in vacuo and toluene (20 mL) is added. The toluene is then removed in vacuo. To the resultant crude oil is dissolve in 50 mL methylene chloride, cooled to 0° C. and triethylamine (27 mL, 192 mmol) is added followed by methanol (50 mL). After 3 hrs the volatiles are removed in vacuo and the crude oil is purified by flash column chromatography (20%–50% ethyl acetate/hexanes) to provide 12.6 g (35%) of 4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid methyl ester. This ester (2.0 g, 7.0 mmol) is reduced to the alcohol by dissolution in THF (50 mL) and adding 4 eq. LiBH4 (0.610 g, 28.0 mmol) to provide 1.8 g (100%) [4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol. MS M++1 258.

reactant | 2-(4-Trifluoromethyl-benzoylamino)-propionic acid | 128 mmol, 33.4 g | FC(C1=CC=C(C(=O)NC(C(=O)O)C)C=C1)(F)F | C11H10F3NO3
reactant | oxalyl chloride | 1.27 Mol, 111 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 192 mmol, 27 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 50 mL | CO | CH4O
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid methyl ester | 12.6 g, 35% | COC(=O)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C | C13H10F3NO3
